US08217028B2
To a solution of 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole-3-carbaldehyde (D71) (1.1 g) in THF (20 mL) was added KMnO4 (0.9 g) and aqueous KOH (10 mL). The reaction was stirred at 55° C. overnight. After cooled to room temperature, the mixture was diluted with THF (20 mL) and filtered. The filtrate was concentrated and the aqueous suspension was acidified with aqueous HCl (2 M) to pH 5-6. The resulting solid was collected by filtration, washed with water, dried in vacuo to give the crude compound, which was purified by column chromatography (20% ethyl acetate in hexane) to afford 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole-3-carboxylic acid as a white solid (D94) (1.0 g). δH (DMSO-d6, 400 MHz): 1.36 (6H, d), 4.90 (1H, m), 7.38 (1H, t), 7.46 (1H, d), 8.02 (2H, m), 8.22 (1H, dd), 8.30 (1H, dd), 8.41 (1H, d), 11.66 (1H, br s). MS (ES): C20H16ClN3O4 requires 397; found 398.1 (M+H+).

reactant | 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole-3-carbaldehyde | 1.1 g | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)C=O | C20H16ClN3O3
reactant | KMnO4 | 0.9 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | KOH | 10 mL | [OH-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole-3-carboxylic acid | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)C(=O)O | C20H16ClN3O4
